US07244843B2
Step C. Preparation of (2S,5R)-1,5-Dibenzyl-2-methylpiperazine
Lithium aluminum hydride (1 M in THF, 4.8 ml, 4.8 mmol) was added dropwise over 30 min to a solution of (3S,6R)-1,3-dibenzyl-6-methylpiperazine-2,5-dione (0.39 g, 1.2 mmol) in THF (7.5 ml) stirring at 0° C. After stirring at 65° C. for 1 day, the reaction was allowed to cool to room temperature and was slowly quenched with water (0.34 ml). Sodium hydroxide (1 N, 0.68 ml) and then water (0.51 ml) were added and the gelatinous solid was filtered rinsing with THF. The filtrate was evaporated in vacuo and the residue transferred to a separatory funnel with EtOAc. Washing the organic layer with brine and drying with MgSO4 afforded product (0.40 g) after evaporation of the solvent. This was used in the next step without further purification.

reactant | Lithium aluminum hydride | 4.8 mmol, 1 M, 4.8 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3S,6R)-1,3-dibenzyl-6-methylpiperazine-2,5-dione | 1.2 mmol, 0.39 g | C(C1=CC=CC=C1)N1C([C@@H](NC([C@H]1C)=O)CC1=CC=CC=C1)=O | C19H20N2O2
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
product | (2S,5R)-1,5-Dibenzyl-2-methylpiperazine | C(C1=CC=CC=C1)N1[C@H](CN[C@@H](C1)CC1=CC=CC=C1)C | C19H24N2
